US05403868
a) t-Boc-vanillylamine
18.0 g Vanillylamine hydrochloride (0.095 mole) and 10.6 g triethylamine (0.11 mole) are dissolved in 250 ml water and placed in a 1 L round bottomed flask. 20.5 g di-tert-butyldicarbonate (0.095 mole) in 200 ml dioxan is added with stirring, over a period of 15 minutes. The resulting mixture is stirred overnight at room temperature.

reactant | Vanillylamine hydrochloride | 0.095 mole, 18.0 g | Cl.C(C1=CC(OC)=C(O)C=C1)N
reactant | triethylamine | 0.11 mole, 10.6 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 0.095 mole, 20.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 250 ml | O | H2O
solvent | dioxan | 200 ml | O1CCOCC1 | C4H8O2
product | t-Boc-vanillylamine | CC(C)(C)OC(=O)NCC1=CC(=C(C=C1)O)OC | C13H19NO4
